### ISSUE TITLE
misformalisation(CryptoFoundations/Fork): `support_map_prod_map_fork`

### ISSUE THREAD

**Issue by pitmonticone** [Verified-zkEVM/VCV-io#93]
The lemma `support_map_prod_map_fork` was negated by @Aristotle-Harmonic as follows: 

```lean
import VCVio.CryptoFoundations.SecExp
import VCVio.OracleComp.QueryTracking.SeededOracle
import VCVio.OracleComp.QueryTracking.LoggingOracle
import VCVio.OracleComp.Coercions.Append

import Mathlib

open Lean Meta Elab Tactic in
elab "revert_all" : tactic => do
  let goals ← getGoals
  let mut newGoals : List MVarId := []
  for mvarId in goals do
    newGoals := newGoals.append [(← mvarId.revertAll)]
  setGoals newGoals

open Lean.Elab.Tactic in
macro "negate_state" : tactic => `(tactic|
  (
    guard_goal_nums 1
    revert_all
    refine @(((by admit) : ∀ {p : Prop}, ¬p → p) ?_)
    try (push_neg; guard_goal_nums 1)
  )
)

/- ... -/

noncomputable section AristotleLemmas

/-
A counterexample showing that the support of `fork` is not necessarily equal to the diagonal of the
support of `main`.
-/
section counterexample

open OracleSpec OracleComp

-- Ensure reflexivity for SubSpec to allow lifting ProbComp to OracleComp unifSpec
instance : unifSpec ⊂ₒ unifSpec where
  monadLift q := q

def badMain : OracleComp unifSpec Unit := return ()
def badQb : ℕ → ℕ := fun _ => 2
def badJs : List ℕ := [0]
def badI : ℕ := 0
def badCf : Unit → Option (Fin 3) := fun _ => some 0

lemma fork_counterexample :
    (Prod.map badCf badCf <$> badMain.fork badQb badJs badI badCf).support ≠
      (fun s => (s, s)) '' (badCf <$> badMain).support := by
  intro h
  have := h.symm ▸ Set.mem_image_of_mem _ (show some 0 ∈ (badCf <$> badMain).support from ?_)
  · simp_all +decide
  · simp +decide [fork, badMain, badCf, generateSeed, badJs, badQb, replicate] at this

end counterexample

end AristotleLemmas

@[simp] lemma support_map_prod_map_fork : (Prod.map cf cf <$> main.fork qb js i cf).support =
    (fun s => (s, s)) '' (cf <$> main).support := by
  have := fork_counterexample
  contrapose this
  -- Wait, there's a mistake. We can actually prove the opposite.
  negate_state
  -- Proof starts here:
  use ℕ, inferInstance, unifSpec, inferInstance, inferInstance, inferInstance, Unit, badMain,
    badQb, badJs, badI, badCf, inferInstance
  -- Apply the counterexample to conclude the proof.
  apply And.intro (fork_counterexample) (fork_counterexample)
```
